US06392055B1
Methanesulfonic acid (4E,6E)-9-[1,3]dioxolan-2-yl-7-methyl-nona-4,6-dienyl ester was synthesized using the following procedure. To a cooled (0° C.) solution of (4E,6E)-9-[1,3]dioxolan-2-yl-7-methyl-nona-4,6-dien-1-ol (1.60 g, 7.20 mmol), triethylamine (1.2 mL, 8.6 mmol), and 15 mL of CH2CI2 was added dropwise methanesulfonyl chloride (0.61 mL, 7.9 mmol). The reaction mixture was stirred at 0° C. to room temperature for 2.5 h, quenched with a saturated NaHCO3 solution, extracted with EtOAc, dried (Na2SO4), and concentrated to give 1.95 g (6.41 mmol, 89%) of methanesulfonic acid (4E,6E)-9-[1,3]dioxolan-2-yl-7-methyl-nona-4,6-dienyl ester which was used without further purification: 1H NMR δ6.28 (dd, 1H, J-15.0, 10.9 Hz), 5.82 (d, 1H,J-10.7 Hz), 5.52 (dt, 1H,J-15.0, 7.0 Hz), 4.85 (t, 1H,J-4.8 Hz), 4.23 (t, 2H, J-6.4 Hz), 4.00-3.75 (m, 4H), 3.00 (s, 3H), 2.25-2.12 (m, 4H), 1.90-1.75 (m, 4H), 1.74 (s, 3H).

reactant | (4E,6E)-9-[1,3]dioxolan-2-yl-7-methyl-nona-4,6-dien-1-ol | 7.20 mmol, 1.60 g | O1C(OCC1)CC/C(=C/C=C/CCCO)/C | C13H22O3
reactant | triethylamine | 8.6 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.9 mmol, 0.61 mL | CS(=O)(=O)Cl | CH3ClO2S
product | methanesulfonic acid (4E,6E)-9-[1,3]dioxolan-2-yl-7-methyl-nona-4,6-dienyl ester | 6.41 mmol, 1.95 g, 89% | O1C(OCC1)CC/C(=C/C=C/CCCOS(=O)(=O)C)/C | C14H24O5S
